US04925879
A solution of bromine (8 ml) in dichloromethane (40 ml) was added at 10° C. to a solution of 1-[1-(4-chlorophenyl)cyclobutyl]ethanone (27.8 g) in methanol (30 ml). The mixture was stirred for 15 minutes and poured into a mixture of ice and water. The resulting mixture as extracted with dichloromethane. The extract was washed with water, dried evaporated to yield an oil which was distilled (145°-160° C./1 mm Hg) to give 1-[1-(4-chlorophenyl)cyclobutyl]-2-bromoethanone.

reactant | bromine | 8 ml | BrBr | Br2
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]ethanone | 27.8 g | ClC1=CC=C(C=C1)C1(CCC1)C(C)=O | C12H13ClO
reactant | water | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 30 ml | CO | CH4O
product | 1-[1-(4-chlorophenyl)cyclobutyl]-2-bromoethanone | ClC1=CC=C(C=C1)C1(CCC1)C(CBr)=O | C12H12BrClO
